US05349109
A stirred mixture containing dioxane (12 mL), 3 mL of cyclohexene, 1g of 4A Molecular Sieves, and 0.11 mmol of (2,6-dipicolinato)(HMPA)Mo(O) (ONPh) is heated at reflux (ca. 100° C.) under a nitrogen atmosphere while a toluene solution (50 mL) of N-phenyl hydroxylamine (1.26 g, 11.6 mmol) is added dropwise over a 24 hr period. After heating an additional 12-24 hr, the mixture was allowed to cool and the volatiles were removed by evaporation at reduced pressure. Chromatography of the residue over silica gel and elution with pentane afforded phenyl 3-cyclohexenyl amine (>95% one isomer by NMR, GC/MS) in 15-25% yield based on the hydroxylamine. Later fractions contained aniline, azobenzene and azoxybenzene.

reactant | dioxane | 12 mL | O1CCOCC1 | C4H8O2
reactant | cyclohexene | 3 mL | C1=CCCCC1 | C6H10
reactant | N-phenyl hydroxylamine | 11.6 mmol, 1.26 g | C1(=CC=CC=C1)NO | C6H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | phenyl 3-cyclohexenyl amine | >95% | C1(=CC=CC=C1)NC1CC=CCC1 | C12H15N
